US06150373
A solution of 60 mg (0.16 mmol) of 3-(2,6-dichlorophenyl)-1-isopropyl-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one in 10 ml of dichloromethane was treated with 108 mg (0.32 mmol) of 3-chloroperbenzoic acid (50% w/w in water) and stirred for 18 hours. 0.2 ml of dimethyl sulfoxide was added. After a further 15 minutes 15 ml of saturated aqueous sodium bicarbonate solution were added and the phases were separated. The organic phase was washed with 30 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated to give 65 mg (100%) of 3-(2,6-dichlorophenyl)-1-isopropyl-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid. [Mass spectrum (ESI) MH+ =415].

reactant | 3-(2,6-dichlorophenyl)-1-isopropyl-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.16 mmol, 60 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)SC)C(C)C)=O | C16H16Cl2N4OS
reactant | 3-chloroperbenzoic acid | 0.32 mmol, 108 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dimethyl sulfoxide | 0.2 ml | CS(=O)C | C2H6OS
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(2,6-dichlorophenyl)-1-isopropyl-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 65 mg, 100% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C(C)C)=O | C16H16Cl2N4O3S
